US08445698B2
Cis-1 -benzo [1,3 ]dioxol-5 -yl-2-(2-chloro-acetyl)-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester (30 g) was taken in methanol (450 ml). The resultant mixture was heated to 35-40° C. and aqueous methyl amine (27 ml; 40%) was added. The reaction mixture was stirred at 50-55° C. for 5 hours and then cooled to 10-15° C. with continuous stirring for 0.5 hours. The solid so obtained was filtered and dried to afford (6R,12aR) 6-(1,3-benzodioxol-5-yl)-2,3,6,7,12,12a-hexahydro-2-methylpyrazino [1′,2′:1,6] pyrido[3,4-b]indole-1,4-dione.

reactant | Cis-1 -benzo [1,3 ]dioxol-5 -yl-2-(2-chloro-acetyl)-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester | 30 g | COC(=O)[C@H]1N([C@H](C=2NC3=CC=CC=C3C2C1)C1=CC2=C(OCO2)C=C1)C(CCl)=O | C22H19ClN2O5
reactant | methyl amine | 27 ml | CN | CH5N
solvent | methanol | 450 ml | CO | CH4O
product | (6R,12aR) 6-(1,3-benzodioxol-5-yl)-2,3,6,7,12,12a-hexahydro-2-methylpyrazino [1′,2′:1,6] pyrido[3,4-b]indole-1,4-dione | O1COC2=C1C=CC(=C2)[C@H]2N1[C@H](CC3=C2NC=2C=CC=CC32)C(N(CC1=O)C)=O | C22H19N3O4
